US08404684B2
AF3) 5-(2,6-Dimethyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine
This material is prepared by reaction of 1-bromo-1-(2,6-dimethyl-pyrimidin-4-yl)-propan-2-one with thiourea following the procedure described for intermediate AC4.

reactant | 1-bromo-1-(2,6-dimethyl-pyrimidin-4-yl)-propan-2-one | BrC(C(C)=O)C1=NC(=NC(=C1)C)C | C9H11BrN2O
reactant | thiourea | NC(=S)N | CH4N2S
product | 5-(2,6-Dimethyl-pyrimidin-4-yl)-4-methyl-thiazol-2-ylamine | CC1=NC(=CC(=N1)C1=C(N=C(S1)N)C)C | C10H12N4S
